US06117841
Step, iii: (S)-2-[(4-tert-Butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid tert-butyl ester (0.5 g, 1.4 mmol) was dissolved in CH2Cl2 (10 mL) and treated with TFA (1mL). After 1 hour, 0.5 mL TFA was added, followed by another 1 mL TFA at 2.5 hours. The reaction was stirred overnight, then concentrated to give (S)-2-[(4-tert-butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid (IIc).

reactant | (S)-2-[(4-tert-Butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid tert-butyl ester | 1.4 mmol, 0.5 g | C(C)(C)(C)OC([C@H](CC(C)C)N(C)CC1=CC=C(C=C1)C(C)(C)C)=O | C22H37NO2
reactant | TFA | 1mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[(4-tert-butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid | C(C)(C)(C)C1=CC=C(CN([C@H](C(=O)O)CC(C)C)C)C=C1 | C18H29NO2
